US07008950B1
5-(4-Methoxybenzyloxy)-3-[4-(4-morpholinyl)phenyl]-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran
Using 2,2,4,6,7-pentamethyl-3-[4-(4-morpholinyl)phenyl]-2,3-dihydrobenzofuran-5-ol and 4-methoxybenzyl chloride, the title compound was obtained in the same manner as in Example 1.

reactant | 2,2,4,6,7-pentamethyl-3-[4-(4-morpholinyl)phenyl]-2,3-dihydrobenzofuran-5-ol | CC1(OC2=C(C1C1=CC=C(C=C1)N1CCOCC1)C(=C(C(=C2C)C)O)C)C | C23H29NO3
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 5-(4-Methoxybenzyloxy)-3-[4-(4-morpholinyl)phenyl]-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran | Yield: 38% | COC1=CC=C(COC=2C(=C(C3=C(C(C(O3)(C)C)C3=CC=C(C=C3)N3CCOCC3)C2C)C)C)C=C1 | C31H37NO4
